US04461906
17.2 g of p-methoxybenzoyl chloride are added while stirring well to 6.0 g of (R)-4-amino-2-hydroxy-butyric acid and 150 ml of ion-free water. The mixture is then adjusted to pH 10.5 with 2 N sodium hydroxide and stirred at room temperature for 70 minutes. The clear solution is treated with ice and adjusted to pH 1.4 with 25% hydrochloric acid. The separated solid is filtered off and washed with water. The filtrate is adjusted to pH 5.5 with sodium hydroxide and concentrated in a water-jet vacuum. The clear colourless solution is adjusted to pH 1.4 with 25% hydrochloric acid and extracted firstly with ether and then with ethyl acetate. The aqueous phases are adjusted to pH 5.5, concentrated, acidified with 25% hydrochloric acid and extracted with ethyl acetate. The combined ethyl acetate extracts are evaporated and the residue is recrystallised from ethyl acetate. There is obtained (R)-4-(p-methoxybenzoylamino)-2-hydroxy-butyric acid of melting point 105°-106° C.; [α]D20 = -12.4°; [α]36520 =-60.5° (c=1.0 in water). A further amount of (R)-4-(p-methoxybenzoylamino)-2-hydroxy-butyric acid of melting point 103.5°-104.5° C. can be isolated from the mother liquors.

reactant | p-methoxybenzoyl chloride | 17.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | (R)-4-amino-2-hydroxy-butyric acid | 6.0 g | NCC[C@H](C(=O)O)O | C4H9NO3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 150 ml | O | H2O
product | (R)-4-(p-methoxybenzoylamino)-2-hydroxy-butyric acid | COC1=CC=C(C(=O)NCC[C@H](C(=O)O)O)C=C1 | C12H15NO5
